US07582631B2
5-[2-(2-Chloro-pyridin-4-yl)-quinazolin-4-yl]-(1S,4S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
A solution of 5-(2-chloro-quinazolin-4-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.145 g, 0.4 mmol) in DME (2 mL) under nitrogen were added palladium acetate (0.0045 g, 0.02 mmol), tri-o-tolylphosphine (0.015 g, 0.048 mmol), and 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (0.19 g, 0.8 mmol), followed by 2M Na2CO3 (0.6 mL, 1.2 mmol). The resulting mixture was heated at 80° C. for 20 h. The reaction was diluted with methylene chloride and washed with saturated sodium bicarbonate and brine and dried (MgSO4). Flash chromatography of the crude product mixture with 25:10:65, 35:10:55, and 50:10:40 EtOAc-CH2Cl2-Hexane gave the title compound. MS (ES+): 438.2 [M+H]+.

reactant | 5-(2-chloro-quinazolin-4-yl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.4 mmol, 0.145 g | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C2=NC(=NC1=CC=CC=C21)Cl | C18H21ClN4O2
reactant | tri-o-tolylphosphine | 0.048 mmol, 0.015 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 0.8 mmol, 0.19 g | ClC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H15BClNO2
reactant | Na2CO3 | 1.2 mmol, 2M, 0.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.02 mmol, 0.0045 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[2-(2-Chloro-pyridin-4-yl)-quinazolin-4-yl]-(1S,4S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=NC1=CC=CC=C21)C2=CC(=NC=C2)Cl | C23H24ClN5O2
